US07179820B2
Sodium hydride (60% dispersion in oil, 7.5 g, 188 mmol) was added to a solution of 2-butyne-1,4-diol (16.1 g, 187 mmol) in THF (150 mL) at 0° C. under nitrogen. After 1 h at 0° C., bromoacetonitrile (8.33 mL, 120 mmol) was added slowly and the reaction was allowed to warm to rt. After 22 h at rt, the reaction was quenched with 1 N HCl (150 mL) and extracted with EtOAc (3×150 mL). The combined extracts were washed with brine (150 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→2% MeOH/CH2Cl2, gradient) afforded 4.35 g (29%) of (4-hydroxy-but-2-ynyloxy)-acetonitrile.

reactant | Sodium hydride | 188 mmol, 7.5 g | [H-].[Na+]
reactant | 2-butyne-1,4-diol | 187 mmol, 16.1 g | C(C#CCO)O | C4H6O2
reactant | bromoacetonitrile | 120 mmol, 8.33 mL | BrCC#N | C2H2BrN
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (4-hydroxy-but-2-ynyloxy)-acetonitrile | 4.35 g, 29% | OCC#CCOCC#N | C6H7NO2
